US06680329B2
1.27 g (3.3 mmol) of 2-[bis(1-oxopropyl)amino]-3-thien-2-ylbenzenesulphonyl chloride are added portionwise, at 0° C., to a solution of 1.35 g (3.0 mmol) of phenylmethyl (S)-4-[4-amino-5-(4-ethylpiperid-1-yl)-5-oxopentyl]piperidine-1-carboxylate hydrochloride and 0.96 ml (6.9 mmol) of triethylamine (TEA) in 15 ml of dichloromethane. The mixture is allowed to warm slowly to room temperature and the reaction is continued for 18 hours. The reaction mixture is taken up in 250 ml of ethyl acetate and is washed with 100 ml of 1N hydrochloric acid solution and with 100 ml of saturated sodium hydrogen carbonate solution and with 100 ml of saturated sodium chloride solution. The resulting product is dried over sodium sulphate and is filtered and then concentrated under reduced pressure. The residue obtained is taken up in 100 ml of tetrahydrofuran (THF) and is cooled to 0° C. and then treated for 5 minutes with a stream of ammonia. The mixture is allowed to warm to room temperature. After 4 hours, the reaction mixture is concentrated under reduced pressure. The residue obtained is taken up in 250 ml of ethyl acetate, washed with 50 ml of 1N hydrochloric acid solution and then with 50 ml of saturated sodium hydrogen carbonate solution and with 50 ml of saturated sodium chloride solution. The resulting product is dried over sodium sulphate and filtered and then concentrated under reduced pressure. The residue obtained is taken up in 1.2 ml of acetic acid, cooled to 0° C. and then treated with a 5N solution of hydrogen bromide in 1.2 ml of acetic acid, added dropwise. The mixture is allowed to warm to room temperature. After 4 hours, the reaction mixture is concentrated under reduced pressure. The residue obtained is taken up in 250 ml of ethyl acetate and is washed with 50 ml of saturated sodium hydrogen carbonate solution and then with 50 ml of saturated sodium chloride solution. The resulting product is dried over sodium sulphate and filtered and is then concentrated after addition of a 0.1N solution of hydrogen chloride in 40 ml of isopropanol. The residue obtained is purified by chromatography on an RP18 column, eluting with an acetonitrile/water gradient of from 5/95 to 30/70. 0.36 g of (S)-N-[2-[[[1-[(4-ethylpiperid-3-yl)carbonyl]-4-piperid-4-ylbutyl]amino]sulphonyl]-6-thien-2-ylphenyl]propanamide hydrochloride is obtained.

reactant | 2-[bis(1-oxopropyl)amino]-3-thien-2-ylbenzenesulphonyl chloride | 3.3 mmol, 1.27 g | O=C(CC)N(C1=C(C=CC=C1C=1SC=CC1)S(=O)(=O)Cl)C(CC)=O | C16H16ClNO4S2
reactant | phenylmethyl (S)-4-[4-amino-5-(4-ethylpiperid-1-yl)-5-oxopentyl]piperidine-1-carboxylate hydrochloride | 3.0 mmol, 1.35 g | Cl.N[C@@H](CCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)N1CCC(CC1)CC
reactant | triethylamine | 6.9 mmol, 0.96 ml | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
reactant | hydrogen bromide | Br | BrH
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 1.2 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 1.2 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | (S)-N-[2-[[[1-[(4-ethylpiperid-3-yl)carbonyl]-4-piperid-4-ylbutyl]amino]sulphonyl]-6-thien-2-ylphenyl]propanamide hydrochloride | 0.36 g, Yield (%)=22 | Cl.C(C)C1C(CNCC1)C(=O)[C@H](CCCC1CCNCC1)NS(=O)(=O)C1=C(C(=CC=C1)C=1SC=CC1)NC(CC)=O | InChI=1S/C30H44N4O4S2.ClH/c1-3-22-15-18-32-20-24(22)30(36)25(10-5-8-21-13-16-31-17-14-21)34-40(37,38)27-12-6-9-23(26-11-7-19-39-26)29(27)33-28(35)4-2;/h6-7,9,11-12,19,21-22,24-25,31-32,34H,3-5,8,10,13-18,20H2,1-2H3,(H,33,35);1H/t22?,24?,25-;/m0./s1
